Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
referred in for tachycardia from PCPs office
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo woman w/ anxiety and h/o IVDU, prior alcohol abuse, hep C
(untreated) who is referred in from her PCPs office for
tachycardia and feeling foggy. Patient reported being sober from
IVDU for more than 6 months but relapsed ___ afternoon
(___). She reported that she ran into an old friend and 
injected
herself with IV methamphetamine. She used from 4PM ___ to
9AM ___. She went to her PCP to discuss relapse and PEP as 
she
shared needle with an HIV positive person and was prescribed
Truvada and Descovy; she took the first pills ___. 

She received PEP regimen by her PCP and during the PCP 
evaluation
she was noted to be tachycardiac. In addition to above, she
reported two brief (lasting <2 minutes each) of chest tightness
that occurred over the last couple days. She could not further
describe the episodes but reported both episodes occurred at 
rest
and resolved without further intervention. At the time of this
evaluation she denies any chest pain, dyspnea, lesions,
lightheadedness, dizziness, visual disturbances, weakness, or
numbness. She reported feeling fatigued and "little foggy". 

In the ED, initial VS were: 98.5 125 117/85 20 99% RA 
Exam notable for:
+Tachycardic
lungs ctab
+left ankle w/ tender injection site, minimal amount of
cellulitis

ECG: Per cards fellow-  sinus tachycardia 114 bpm, normal axis,
normal PR and QRS intervals, QTC 443 ms, submm STD in leads 
V3-V6

Labs showed:  troponin T 0.06, d-dimer 529, lactate 1.3. CK: 965
UA w/ 40 ketones, neg nitrites and leuks, normal CBC, normal
chemistry
Urine Amphet Pos 
Urine Benzos, Barbs, Opiates, Cocaine, Mthdne, Oxycodone 
Negative

 
Imaging showed:
CTA- No evidence of pulmonary embolism or aortic abnormality.
Foot xray- 8 mm linear radiopaque density likely reflective of a
retained needle tip within the soft tissues projecting over the
medial and slightly ventral aspect of the distal tibia. 
CXR- No acute cardiopulmonary abnormality.

Consults:
Cardiology-
Consideration for patient's sinus tachycardia in the setting of
indeterminate range troponinemia and elevated d-dimer include
pulmonary embolism, infection (especially endocarditis given 
IVDU
although no new murmurs appreciated on exam), hyperthyroidism,
among others. Given no risk factors in a young female, no 
anginal
symptoms and no significant EKG changes, coronary artery disease
is unlikely to the underlying etiology of patient's 
presentation.
 - Broad infectious work-up including blood cultures
 - Check urine/serum tox
 - Trend Troponin and CK-MB until peak
 - CT with PE protocol
 - Check TSH
 - Obtain transthoracic echocardiogram
 - If Troponin and CK-MB up-trending, agree with cardiology
admission otherwise patient can be admitted to medicine with
telemetry.
Patient received: NS
Transfer VS were: 98.6 92 112/68 17 100% RA 

On arrival to the floor, patient reports that she is feeling 
very
anxious; her anxiety presents with chest tightness and a feeling
that she would have a hard time breathing if she took deep
breaths.  She describes this as chest pain but says that this is
completely unchanged and has been ongoing and intermittent for
the last ___ years.  She says it feels like panic attacks.  Denies
SOB.  Denies abdominal pain, nausea, vomiting, diarrhea.  Denies
dizziness or lightheadedness.  Denies fevers but says she had 
one
episode of profuse sweating ___ night.  She used from 4 ___
___ afternoon till 9 AM ___ morning.  She has used
methamphetamines before never experienced this type of 
sensation.
Overall feels better than when she came into the ED initially,
feels less foggy.

She also notes that she has had unprotected sexual intercourse 
in
the last 2 months.  She has not exchanged sex for drugs in the
last couple of months but has previously.  Endorses irregular
menstrual bleeding and vaginal clots over the last couple of
weeks.  In that setting she has stopped using her birth control.

Endorses that she has never previously been told that she has a
bloodstream infection or heart condition.  Has previously been
hospitalized for the birth of her ___ and for overdoses,
but no serious infections.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
anxiety 
Substance use disorder - alcohol (remission), heroin 
(remission), methamphetamine (relapsed)
hep C (untreated)
Genital herpes, recently diagnosed
 
Social History:
___
Family History:
2 aunts passed away in ___ secondary to cardiac 
issues.  1 of them was not using drugs and died secondary to a 
heart attack.  The other was using and also died secondary to 
heart issues.
 
Physical Exam:
ADMISSION:
==========
VS: 97.9 PO 102/60 L Lying 94 18 97 Ra 
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, multiple tattoos (featuring 
skulls)
located on her extremities, neck, torso, multiple track marks 
and
needle marks located on her extremities.  Left antecubital fossa
with erythema and drainage.  Left foot instep with thin palpable
lesion, tenderness to palpation.  No ___ nodes ___
lesions.
 
DISCHARGE:
==========
Vitals: 24 HR Data (last updated ___ @ 1226)
    Temp: 98.0 (Tm 98.0), BP: 97/61 (97-103/59-61), HR: 88
(83-95), RR: 18, O2 sat: 97% (96-97), O2 delivery: Ra 
 
General: NAD, well-appearing
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
Neck: supple, no LAD, no JVD
Lungs: CTAB, no wheezes, rales or rhonchi
CV: RRR, S1/S2, no MRG
GI: NDNT, +BS
Ext: No cyanosis, clubbing edema
Neuro: AOx3, moving all extremities with purpose
Skin: warm and well perfused, multiple tattoos (featuring 
skulls)
located on her extremities, neck, torso, multiple track marks 
and
needle marks located on her extremities.  Left antecubital fossa
with erythema and drainage.  Left foot instep with thin palpable
lesion, tenderness to palpation.  No ___ nodes ___
lesions. ? Splinter hemorrhage on L index nailbed

 
Pertinent Results:
ADMISSION:
==========
___ 07:17PM BLOOD WBC-9.2 RBC-5.73* Hgb-16.9* Hct-49.9* 
MCV-87 MCH-29.5 MCHC-33.9 RDW-11.9 RDWSD-37.6 Plt ___
___ 07:17PM BLOOD Neuts-62.9 ___ Monos-8.5 Eos-1.3 
Baso-0.7 Im ___ AbsNeut-5.80 AbsLymp-2.43 AbsMono-0.78 
AbsEos-0.12 AbsBaso-0.06
___ 07:17PM BLOOD Glucose-93 UreaN-16 Creat-0.9 Na-138 
K-4.6 Cl-98 HCO3-22 AnGap-18
___ 07:17PM BLOOD CK(CPK)-965*
___ 09:50PM BLOOD ALT-65* AST-63* LD(LDH)-415* AlkPhos-43 
TotBili-0.6
___ 07:17PM BLOOD CK-MB-9 MB Indx-0.9 proBNP-2768*
___ 07:17PM BLOOD cTropnT-0.06*
___ 06:58AM BLOOD Calcium-8.0* Phos-4.7* Mg-1.9
___ 07:17PM BLOOD D-Dimer-529*
___ 07:17PM BLOOD TSH-4.1
 
OTHER PERTINENT:
=================
___ 06:58AM BLOOD CK(CPK)-397*
___ 09:50PM BLOOD cTropnT-0.06*
___ 06:58AM BLOOD CK-MB-4 cTropnT-0.04* proBNP-___*
___ 09:50PM BLOOD TSH-2.4
___ 09:50PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 06:58AM BLOOD HIV Ab-NEG
___ 07:17PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:50PM BLOOD HCV Ab-POS*
___ 06:58AM BLOOD HCV VL-PND
___ 06:58AM BLOOD HEPATITIS C VIRAL RNA, GENOTYPE-PND
___ 08:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:30PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-1 
TransE-<1
___ 08:30PM URINE CastHy-3*
___ 08:30PM URINE Mucous-MANY*
___ 08:30PM URINE UCG-NEGATIVE
___ 08:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG
___ 09:27AM URINE CT-NEG NG-NEG

MICRO:
======
___ 8:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      GRAM POSITIVE BACTERIA.    >100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

___ 7:40 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RPR w/check for Prozone (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ and ___ - Blood cultures x 4 - pending, no growth to date 
at time of writing (___)
 
IMAGING:
=========
___ 09:45 Transthoracic Echocardiogram Report
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left ventricular wall thickness 
with a normal cavity size. There is normal regional left 
ventricular systolic function. Global left ventricular systolic 
function is low normal. Quantitative biplane left ventricular 
ejection fraction is 53 %. Left ventricular cardiac index is 
normal (>2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. No ventricular septal defect is seen. 
Transmitral and tissue Doppler suggests normal diastolic 
function, and a normal left ventricular filling pressure (PCWP 
less than 12mmHg). Normal right ventricular cavity size with 
normal free wall motion. 
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The aortic arch diameter is 
normal. There is no evidence for an aortic arch coarctation. The 
aortic valve leaflets (3) appear structurally normal. No masses 
or vegetations are seen on the aortic valve. No abscess is seen. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. 
The mitral leaflets appear structurally normal with no mitral 
valve prolapse. No masses or vegetations are seen on the mitral 
valve. No abscess is seen. There is trivial mitral 
regurgitation. 
The tricuspid valve leaflets appear structurally normal. No 
mass/ vegetation are seen on the tricuspid valve. No abscess is 
seen. There is physiologic tricuspid regurgitation. 
The estimated pulmonary artery systolic pressure is high normal. 

There is no pericardial effusion.
IMPRESSION: Normal biventricular cavity sizes, regional systolic 
function. Low normal global systolic function. No valvular 
pathology or pathologic flow identified. High normal estimated 
pulmonary artery systolic pressure
 
DISCHARGE:
==========

___ 06:58AM BLOOD WBC-6.1 RBC-4.05 Hgb-12.2 Hct-35.7 MCV-88 
MCH-30.1 MCHC-34.2 RDW-11.9 RDWSD-38.4 Plt ___
___ 06:58AM BLOOD Glucose-96 UreaN-12 Creat-0.7 Na-139 
K-3.8 Cl-104 HCO3-24 AnGap-___ yo woman w/ anxiety and h/o IVDU, prior alcohol abuse, hep C 
(untreated) who is referred in from her PCPs office for 
tachycardia and feeling foggy. 

# Troponinemia i/s/o tachycardia, hypovolemia
Tachycardia improved with fluids to ___, similarly CK 
downtrended from 965 to 397. EKG resolved to be within normal 
limits. Differential included hypovolemia ___ recent 
methamphetamine use with unreliable PO intake. Concern for 
possible infection given injection drug use and purulence at 
left antecubital fossa. Other consideration is longstanding 
anxiety ___ hx), not currently being treated. Seen by Cards 
in the ED who felt ACS not likely given no risk factors. 
Interestingly, appeared euvolemic, but proBNP on admission 2768. 
TTE ordered and was WNL without evidence of valvulopathy or 
vegetation. TSH normal so hyperthyroidism not ediology. CTA w/o 
evidence of PE. Only positive study was Urine tox positive for 
amphetamines so feel this is all most likely tachycardia 
secondary to methamphetamine use. After 24 hours BNP downtrended 
to ___ and trop downtrended from 0.06 to 0.04. Discharged with 
close follow-up with PCP. 

# IVDU 
# needle share w/ HIV+ person
# unprotected sexual intercourse
Optimal duration of post exposure prophylaxis is unknown but 
current guidelines recommend a 28-day course of ART for people 
w/ a significant HIV exposure. Urine hCG negative. Plan to 
continue Truvada and Tivicay prescribed by PCP ___ for 28 day 
course. Patient has these meds with her and will continue on 
discharge. At time of discharge, HIV vL pending. 

# Transaminitis
# Other transmissible illnesses
Of note, HCV ab positive on admission. Serum RPR with prozone, 
Hep B serologies, and HCV vL pending at time of discharge. Urine 
gonorrhea and chlamydia also pending.

# Needle in R foot
Needle became embedded in her foot in the setting of IV drug use 
over the weekend. Foot xray shows "8 mm linear radiopaque 
density likely reflective of a retained needle tip within the 
soft tissues projecting over the medial and slightly ventral 
aspect of the distal tibia." Adminsitered TDaP and tetanus 
immunoglobulin for complicated puncture wound. Seen by podiatry 
who scheduled follow-up in 48 hours after discharge. Given paper 
Rx for Bactrim in case develops purulence, swelling concerning 
for cellulitis, F/C

# Social support
Evaluated by social work. Feels mother is strong support and in 
control of current situation. Says she is able to get to her 
follow-up appointments.

TRANSITIONAL ISSUES:
====================
MEDICATIONS: 
- New: Given Rx for Bactrim DS BID x 7 days in case develops 
signs/symptoms of cellulitis at foot, also acetaminophen
- None changed or stopped
VACCINATIONS
- Administered TdaP
OTHER FOLLOW-UP
- Foreign body in R dorsal foot (planned eval by podiatry ___
- Treatment for HCV
- Referral for behavioral health
FOLLOW-UP LABS
- Please obtain AST/ALT/Tbili/APhos after tx of HCV
- Pending HIV vL, HCV vL, Hep B serologies, RPR with prozone, 
urine GC/CT at time of discharge
Discharge values
proBNP: ___ 
CODE: Full
CONTACT: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Dolutegravir 50 mg PO DAILY 
3. TraZODone 100 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
Use if you develop more swelling, pain, warmth and pus at your 
right ankle 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 
3.  Dolutegravir 50 mg PO DAILY  
4.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
5.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Elevated troponins secondary tachycardia, possibly 
methamphetamine
Substance use disorder
Injection drug use
HIV exposure
Needle in right foot

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Ms. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- Your heart rate was fast and there was concern you had an 
infection affecting your heart.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received pain medicine, were evaluated for heart infection 
and observed walking.
- Your condition is stable and you are safe to go home.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- You are being given a paper prescription for Bactrim (an 
anti-biotics). Use this prescription if you think your getting 
an infection in your right ankle/foot. If you need to use this 
prescription, call your PCP.
- You are being given a paper prescription for acetaminophen 
(Tylenol). If you're still having lots of pain, please call your 
PCP to discuss if it is safe to start using ibuprofen. This can 
interact with your post-exposure medications so we would like 
you to discuss this with them before starting to use ibuprofen 
(Motrin, Advil) or naproxen (Aleve).
- Continue to take all your medicines and keep your 
appointments.
- Call your doctor if you have any new or concerning symptoms.

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___